US03974161
B. 6-Fluoro-2-Aminoquinoline-3-Carboxamide
Iron powder (8.52 g., 0.152 mole) is gradually added over a 40-minute period to a slurry of α-cyano-β-(2-nitro-5-fluorophenyl)acrylamide (7.97 g., 0.034 mole) in acetic acid (100 ml.) at 85° C. When addition of the iron powder is complete, the mixture is heated to 95°-100° C. for 1.5 hours and then filtered hot through diatomaceous earth. The filtrate is cooled in an ice bath and then filtered to give a tan crystalline solid. The solid is partitioned between ethyl acetate and water, the organic phase separated, dried over anhydrous sodium sulfate and concentrated to yield 6.34 g. (90%) of the title amide as yellow crystals. M.P. 232°-236° C.

reactant | α-cyano-β-(2-nitro-5-fluorophenyl)acrylamide | 0.034 mole, 7.97 g | C(#N)C(C(=O)N)=CC1=C(C=CC(=C1)F)[N+](=O)[O-] | C10H6FN3O3
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | Iron | 0.152 mole, 8.52 g | [Fe] | Fe
product | 6-Fluoro-2-Aminoquinoline-3-Carboxamide | FC=1C=C2C=C(C(=NC2=CC1)N)C(=O)N | C10H8FN3O
